US04017531
Preparation of 10-chloro-2,7-dimethyl-2,3,5,11b-tetrahydro-11b-phenyloxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one (2,11b cis)
A mixture of 10.0 g. (35 mmole) of 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one, 6.7 g. of aluminum chloride, 300 ml. of benzene and 30 ml. of hexane was chilled in an ice-bath and was treated with 10 ml. of propylene oxide. The reaction mixture was warmed to room temperature and was stirred overnight. Work-up as in Method A, Example 5, yielded a mixture of the epimers of 10-chloro-2,7-dimethyl-2,3,5,11b-tetrahydro-11b-phenyloxazole[3,2-d][1,4]benzodiazepin-6(7H)-one. A solution of 1.0 g. of this mixture was stirred overnight at 80° in 25 ml. of boron trifluoride etherate. The reaction mixture was poured carefully into ice water and made basic with ammonium hydroxide. The mixture was extracted with chloroform, water washed, dried and concentrated to a solid residue. Three recrystallizations from methylene chloride-hexane gave the above-titled isomer, m.. 142°-143°.

reactant | 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 35 mmole | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13ClN2O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 10-chloro-2,7-dimethyl-2,3,5,11b-tetrahydro-11b-phenyloxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C3(N(CC(N2C)=O)CC(O3)C)C3=CC=CC=C3)C1 | C19H19ClN2O2
